US06323155B1
Thionyl chloride (21 ml) was added to methanol at 10° C. and the solution stirred for 0.5 hours before being added to 4-chloro-2-(methylsulphonylamino)benzoic acid (11.1 g). The mixture was heated under reflux conditions for 2 days after which time a further addition of thionyl chloride (6 ml) was made and reflux resumed for a further 2 days. The solvent was evaporated to dryness, water added and the mixture extracted with ethyl acetate. The extract was washed with sodium hydroxide solution (2N) then with water, dried (magnesium sulphate) and evaporated to dryness to give methyl 4-chloro-2-(methylsulphonylamino)benzoate (3.85 g) as a cream solid, NMR (CDCl3) 3.25(s,3H), 3.9(s,3H), 7.3(dd,1H), 7.6(m,1H), 7.95(d,1H), 10.2(brs,1H).

reactant | Thionyl chloride | 21 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chloro-2-(methylsulphonylamino)benzoic acid | 11.1 g | ClC1=CC(=C(C(=O)O)C=C1)NS(=O)(=O)C | C8H8ClNO4S
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | methyl 4-chloro-2-(methylsulphonylamino)benzoate | 3.85 g | ClC1=CC(=C(C(=O)OC)C=C1)NS(=O)(=O)C | C9H10ClNO4S
